US08293744B2
Step 1: Preparation of (±)-tert-butyl 2-(tetrahydro-2H-pyran-3-yl)hydrazinecarboxylate:
Dihydro-2H-pyran-3(4H)-one (100 mg, 1.00 mmol), tert-butyl carbazate (145 mg, 1.10 mmol, 1.1 equiv) and acetic acid (0.280 mL, 4.99 mmol, 5 equiv) were combined in 1,2-dichloroethane (3 mL), stirred at ambient temperature for 10 minutes and treated with sodium triacetoxyborohydride (296 mg, 1.34 mmol, 1.4 equiv). After stirring for 1 hour, the mixture was poured into water and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo to provide the titled compound.

reactant | Dihydro-2H-pyran-3(4H)-one | 1.00 mmol, 100 mg | O1CC(CCC1)=O | C5H8O2
reactant | tert-butyl carbazate | 1.10 mmol, 145 mg, 1.1 equiv | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | acetic acid | 4.99 mmol, 0.280 mL, 5 equiv | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.34 mmol, 296 mg, 1.4 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | (±)-tert-butyl 2-(tetrahydro-2H-pyran-3-yl)hydrazinecarboxylate | O1CC(CCC1)NNC(=O)OC(C)(C)C | C10H20N2O3
